US06492403B1
a) Bromo-3-phenylacetone
To a solution of 132 μL (1.00 mmol) of phenylacetyl chloride in 1.0 mL of anhyd MeCN was added 1.05 mL (2.10 mmol) of a 2 M solution of trimethylsilyldiazomethane in hexane. After stirring 1 h at room temperature, the mixture was cooled (0° C.) and 300 μL (1.50 mmol) of 30 wt % HBr in acetic acid was added dropwise (gas evolution). After stirring 15 min, the mixture was concentrated in vacuo and rapidly chromatographed on a 2 g silica SPE column (Waters Sep-Pak) with 50% CH2Cl2-hexane to afford the title compound as a pale yellow oil (201 mg, 94%). 1H-NMR (300 MHz, CDCl3) δ7.2-7.4 (m, 5H), 3.95 (s, 2H), 3.92 (s, 2H).

reactant | phenylacetyl chloride | 1.00 mmol, 132 μL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | HBr | Br | BrH
solvent | MeCN | 1.0 mL | CC#N | C2H3N
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Bromo-3-phenylacetone | 201 mg, 94% | BrC(C(C)=O)C1=CC=CC=C1 | C9H9BrO
